US04281127
Preparation of trans-3-(6-hydroxy-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid
A mixture of 8.35 g. of trans-3-(6-hydroxy-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid methyl ester and 500 ml. of 6 N hydrochloric acid was stirred and refluxed for 15 minutes. After cooling, water was added and the resultant solid was filtered to yield 6.33 g., m.p. 294°-296°; of trans-3-hydroxy-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid.

reactant | trans-3-(6-hydroxy-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid methyl ester | COC(\C=C\N1C=NC2=CC=C(C=C2C1=O)O)=O | C12H10N2O4
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | 2-propenoic acid | C(C=C)(=O)O | C3H4O2
solvent | water | O | H2O
product | trans-3-(6-hydroxy-4-oxo-4H-quinazolin-3-yl)-2-propenoic acid | OC=1C=C2C(N(C=NC2=CC1)/C=C/C(=O)O)=O | C11H8N2O4
